US08049034B2
6.8 ml (6.8 mmol) of a solution of tetrabutylammonium fluoride (1M) are added to a solution of 2.8 g (4.5 mmol) of ethyl 4′-[4-(tert-butyldimethylsilanyloxy)butoxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate in 20 ml of tetrahydrofuran. The reaction mixture is stirred for 4 h at ambient temperature. The reaction is stopped by adding 20 ml of water and the mixture is then extracted with ethyl acetate. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, and dried over magnesium sulfate. The solvents are evaporated off. The crude obtained in the form of an oil is chromatographed on silica gel (heptane/ethyl acetate: 70/30), to give 2.10 g of ethyl 4′-(4-hydroxybutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate in the form of a colorless oil (yield=93%).

reactant | tetrabutylammonium fluoride | 1M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ethyl 4′-[4-(tert-butyldimethylsilanyloxy)butoxy]-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate | 4.5 mmol, 2.8 g | [Si](C)(C)(C(C)(C)C)OCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C39H54O4Si
reactant | water | 20 ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | ethyl 4′-(4-hydroxybutoxy)-3′-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)biphenyl-4-carboxylate | 2.10 g | OCCCCOC1=C(C=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C | C33H40O4
